US07288547B2
263 mg (1.0 mmol) of (5-bromo-2-chloro-pyrimidin-4-yl)-cyclopropylmethyl-amine is dissolved in 2 ml of acetonitrile and added to a suspension of 172 mg (1.0 mmol) of 5-amino-pyridine-2-sulfonic acid amide (representation according to W. T. Caldwell, E. C. Kornfeld J. Am. Chem. Soc. 1942, 64, 1695-1698) in 1 ml of acetonitrile, 0.25 ml of a 4 molar solution of hydrochloric acid in 1,4-dioxane as well as 0.25 ml of water. The reaction mixture is stirred under reflux overnight. After cooling, the precipitate that is formed is filtered off and washed with warm water. After drying, 286 mg (0.72 mmol, 72% of theory) of the product 5-[5-bromo-4-(cyclopropylmethyl-amino)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide is obtained.

reactant | (5-bromo-2-chloro-pyrimidin-4-yl)-cyclopropylmethyl-amine | 1.0 mmol, 263 mg | BrC=1C(=NC(=NC1)Cl)NCC1CC1 | C8H9BrClN3
reactant | 5-amino-pyridine-2-sulfonic acid amide | 1.0 mmol, 172 mg | NC=1C=CC(=NC1)S(=O)(=O)N | C5H7N3O2S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 0.25 ml | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-[5-bromo-4-(cyclopropylmethyl-amino)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)NCC1CC1 | C13H15BrN6O2S
